US04788210
starting from ethyl o-methoxybenzimidate and o-trifluoromethyl-benzoyl chloride there is obtained ethyl N-(o-trifluoromethyl-benzoyl)-o-methoxybenzimidate and therefrom with methylhydrazine there is obtained 3-(o-anisyl)-1-methyl-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole, m.p. 74°-78° C.;

reactant | ethyl o-methoxybenzimidate | COC1=C(C(OCC)=N)C=CC=C1 | C10H13NO2
reactant | o-trifluoromethyl-benzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | ethyl N-(o-trifluoromethyl-benzoyl)-o-methoxybenzimidate | FC(C1=C(C(=O)N=C(C2=C(C=CC=C2)OC)OCC)C=CC=C1)(F)F | C18H16F3NO3
